US03956488
A mixture of 31.0 g. of 4-amino-2,4'-dichlorobiphenyl ether, 47.4 g. of 3,5-diiodo salicylic acid, and 4.3 ml. of phosphorus trichloride in 235 ml. of chlorobenzene is refluxed for 3 hours. The hot solution is decanted from some insoluble residue and the crude product settles out of solution upon cooling to room temperature. Upon recrystallization from benzene, 27.8 g. of 3,5-diiodo-3'-chloro-4'-(p-chlorophenoxy)-salicylanilide, m.p. 168°-170°C. is obtained.

reactant | 4-amino-2,4'-dichlorobiphenyl ether | NC1=CC(=C(C=C1)C1=CC=C(C=C1)Cl)Cl.CCOCC
reactant | 3,5-diiodo salicylic acid | IC1=C(C(C(=O)O)=CC(=C1)I)O | C7H4I2O3
reactant | phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 3,5-diiodo-3'-chloro-4'-(p-chlorophenoxy)-salicylanilide | IC1=C(C(C(=O)NC2=CC(=C(C=C2)OC2=CC=C(C=C2)Cl)Cl)=CC(=C1)I)O | C19H11Cl2I2NO3
